US08357717B2
Stage 1: 7-tert-Butyl 2-ethyl 5,6-dihydroimidazo[1,2-a]pyrazine-2,7(8H)-dicarboxylate
Et3N (8.33 mmol, 2.5 equiv.) was added at 0° C. to a solution of ethyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylate hydrochloride (3.33 mmol, 1.0 equiv.) in DCM (25 ml), and the mixture was stirred for 10 min. Boc anhydride (4.99 mmol, 1.5 equiv.) was then added dropwise at 0° C. to the mixture, and stirring was then carried out for 16 h at 25° C. The reaction mixture was diluted with DCM (100 ml) and extracted with water (2×50 ml) and sat. NaCl solution (2×50 ml). The organic phase was dried over Na2SO4 and concentrated in vacuo. The crude product was purified by column chromatography (35% ethyl acetate in hexane) and the desired product was thus obtained in the form of a white solid. Yield: 66%.

reactant | Et3N | 8.33 mmol, 2.5 equiv. | CCN(CC)CC | C6H15N
reactant | ethyl 5,6,7,8-tetrahydroimidazo[1,2-a]pyrazine-2-carboxylate hydrochloride | 3.33 mmol, 1.0 equiv. | Cl.N=1C(=CN2C1CNCC2)C(=O)OCC
reactant | Boc anhydride | 4.99 mmol, 1.5 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 25 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 100 ml | C(Cl)Cl | CH2Cl2
product | 7-tert-Butyl 2-ethyl 5,6-dihydroimidazo[1,2-a]pyrazine-2,7(8H)-dicarboxylate | Yield: 66% | N=1C(=CN2C1CN(CC2)C(=O)OC(C)(C)C)C(=O)OCC | C14H21N3O4
